US06506901B2
Step B: {1-[4-(1-Piperidinylsulfonyl)phenyl]-4-piperidinyl}methanol
1-[(4-fluorophenyl)sulfonyl]piperidine (0.437 g, 1.8 mmol), 4-piperidinylmethanol (0.230 g, 2 mmol), and ;potassium carbonate (0.262 g, 2 mmol) were heated to 120° C. for 4 hours. The reaction was cooled, and partitioned between ethyl acetate and water. The organic layer was washed with aqueous HCl, and brine. It was dried with sodium sulfate, filtered, and removal of the solvent gave 0.040 g (0.12 mmol).

reactant | 1-[(4-fluorophenyl)sulfonyl]piperidine | 1.8 mmol, 0.437 g | FC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C11H14FNO2S
reactant | 4-piperidinylmethanol | 2 mmol, 0.230 g | N1CCC(CC1)CO | C6H13NO
reactant | potassium carbonate | 2 mmol, 0.262 g | C([O-])([O-])=O.[K+].[K+]
product | {1-[4-(1-Piperidinylsulfonyl)phenyl]-4-piperidinyl}methanol | N1(CCCCC1)S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)CO | C17H26N2O3S
